US04584383
1-Benzyl-2-mercapto-5-hydroxymethyl-imidazole
n-Butanol (50 ml), glacial acetic acid (25 g), dihydroxyacetone dimer (21.0 g), potassium thiocyanate (34.1 g) and benzylamine (28.0 g) are combined at room temperature. The mixture is stirred at room temperature for 50 hours and the product is filtered. A light brown product is obtained, 35.0 g (68.2%), m.p. 229°-231° C. The NMR spectrum shows:

reactant | n-Butanol | 50 ml | C(CCC)O | C4H10O
reactant | dihydroxyacetone dimer | 21.0 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanate | 34.1 g | [S-]C#N.[K+]
reactant | benzylamine | 28.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetic acid | 25 g | C(C)(=O)O | C2H4O2
product | 1-Benzyl-2-mercapto-5-hydroxymethyl-imidazole | C(C1=CC=CC=C1)N1C(=NC=C1CO)S | C11H12N2OS
